US07932281B2
Synthesis of 4-dipropylaminomethyl-benzoic acid methyl ester
4-Bromomethylbenzoic acid methyl ester (831 mg) was dissolved in DMF (12.5 ml) and added with dipropylamine (971 μl) and the whole was stirred at room temperature for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was dissolved in chloroform, washed with a saturated aqueous sodium hydrogen carbonate solution, and subjected to extraction with chloroform. The organic layer was washed with a saturated saline solution and dried with anhydrous sodium sulfate. After filtration, the solvent was distilled off, thereby obtaining the subject compound (883 mg) as a brown solid.

reactant | 4-Bromomethylbenzoic acid methyl ester | 831 mg | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
reactant | dipropylamine | 971 μl | C(CC)NCCC | C6H15N
solvent | DMF | 12.5 ml | CN(C)C=O | C3H7NO
product | 4-dipropylaminomethyl-benzoic acid methyl ester | 883 mg | COC(C1=CC=C(C=C1)CN(CCC)CCC)=O | C15H23NO2
